US06433174B1
Synthesis of 3-(3,4-Dichlorophenyl)-3-benzyloxycarbonylpropionic Acid
To a DMSO (50 ml) suspension of 3.63 g (0.100 mol) of sodium hydride, a DMSO solution (30 ml) of 31.57 g (0.100 mol) of benzyl 3,4-dichlorophenylacetate was added at a temperature of 30° C. or below over a period of 45 minutes, and then the solution was further stirred at an internal temperature of 25° C. for 45 minutes. Then 11.65 g (0.100 mol) of sodium chloroacetate was added over a period of 10 minutes and the suspension was stirred at an internal temperature of 25° C. for 18.5 hours. The reaction solution was added dropwise into 50 ml of 2N hydrochloric acid and 250 ml of ice water while maintaining the internal temperature at 20° C. or below, and then 250 ml of ethyl acetate was added to the mixed solution. After separating the liquid, the organic layer was washed with 250 ml of water and then further washed with 250 ml of a 5% saline solution. It was then concentrated under reduced pressure, again concentrated under reduced pressure by adding 50 ml of toluene and further concentrated under reduced pressure by additionally adding 50 ml of toluene to obtain a crude product. Then 100 ml of toluene was added and the solution was heated to an internal temperature of 90° C. and stirred for one hour, after which 100 ml of heptane was added at an internal temperature of 80° C. and the solution was cooled slowly until the internal temperature dropped to 25° C. The precipitated crystals were filtered out and washed twice with 25 ml of heptane to obtain 26.40 g (74.7% yield) of the title compound.

reactant | sodium hydride | 0.100 mol, 3.63 g | [H-].[Na+]
reactant | benzyl 3,4-dichlorophenylacetate | 0.100 mol, 31.57 g | ClC=1C=C(C=CC1Cl)CC(=O)OCC1=CC=CC=C1 | C15H12Cl2O2
reactant | sodium chloroacetate | 0.100 mol, 11.65 g | ClCC(=O)[O-].[Na+]
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | heptane | 100 ml | CCCCCCC | C7H16
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 3-(3,4-Dichlorophenyl)-3-benzyloxycarbonylpropionic Acid | 26.40 g, 74.7% yield | ClC=1C=C(C=CC1Cl)C(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C17H14Cl2O4
